US06207686B1
A solution of ethyl 3-(1-tert-butoxycarbonylimidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionate (633 mg) in trifluoroacetic acid (5 ml) was stirred at ambient temperature for 10 minutes. Trifluoroacetic acid was removed by evaporation and the residue was diluted with ethyl acetate followed by washing successively with saturated sodium bicarbonate aqueous solution and brine. Drying, filtering and removal of the solvents afforded a crude intermediate compound. To a solution of the above compound and triethylamine (214 mg) in dichloromethane (10 ml) was added portionwise triphenylmethyl chloride (545 mg) and the mixture was stirred at ambient temperature for 20 minutes. The resulting solution was washed successively with saturated ammonium chloride aqueous solution and saturated sodium bicarbonate aqueous solution. Drying, filtering and removal of the solvents afforded ethyl 3-[1-(triphenylmethyl)imidazol-4-yl]-2-(3,4-methylenedioxyphenyl)propionate (740 mg) as a slightly yellow oil.

reactant | ethyl 3-(1-tert-butoxycarbonylimidazol-4-yl)-2-(3,4-methylenedioxyphenyl)propionate | 633 mg | C(C)(C)(C)OC(=O)N1C=NC(=C1)CC(C(=O)OCC)C1=CC2=C(C=C1)OCO2 | C20H24N2O6
reactant | triethylamine | 214 mg | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 545 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | ethyl 3-[1-(triphenylmethyl)imidazol-4-yl]-2-(3,4-methylenedioxyphenyl)propionate | 740 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CC(C(=O)OCC)C1=CC2=C(C=C1)OCO2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N2O4
